US08859544B2
Ethyl({6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2,4-dioxo-1,4-dihydroquinazolin-3(2H)-yl}oxy)acetate
0.11 ml (0.99 mmol) of ethyl bromoacetate and then 0.14 ml (0.99 mmol) of triethylamine are added, at ambient temperature under an inert atmosphere, to 0.36 g (0.99 mmol) of 3-hydroxy-6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]quinazoline-2,4(1H,3H)-dione in 12.5 ml of ethanol. The reaction medium is stirred for 18 hours and then 0.14 ml (0.99 mmol) of triethylamine and 0.11 ml (0.99 mmol) of ethyl bromoacetate are added. After stirring for 18 hours at ambient temperature, the reaction medium is concentrated under reduced pressure. The residue obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol mixture. 217 mg of a yellow powder are obtained.

reactant | ethyl bromoacetate | 0.99 mmol, 0.11 ml | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 0.99 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]quinazoline-2,4(1H,3H)-dione | 0.99 mmol, 0.36 g | ON1C(NC2=CC=C(C=C2C1=O)C(=O)C1=C(C(=C2C=CC=CN12)OC)C)=O | C19H15N3O5
reactant | triethylamine | 0.99 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 0.99 mmol, 0.11 ml | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
product | Ethyl({6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2,4-dioxo-1,4-dihydroquinazolin-3(2H)-yl}oxy)acetate | 217 mg | C(C)OC(CON1C(NC2=CC=C(C=C2C1=O)C(=O)C1=C(C(=C2C=CC=CN12)OC)C)=O)=O | C23H21N3O7
